US06713490B2
To a stirring suspension of aluminum chloride (8.0 g, 60 mmol) in 1,2-dichloroethane (16 ml) was added bromoacetyl bromide (4.2 ml, 48 mmol) at 0° C. After 30 min, to a suspension was added 5-Fluoro-3,4-dihydroquinolin-2(1H)-one (4.0 g, 24 mmol) portionwise, then the mixture was allowed to warm to 50° C. and stirred for 4 h. After cooling, the solvent was evaporated in vacuo and the residue was quenched with ice-water and extracted with ethyl acetate. The extract was dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography (hexane/ethyl acetate=1/1) to afford 6-(Bromoacetyl)-5-fluoro-3,4-dihydroquinolin-2(1H)-one (2.0 g) as a yellow solid.

reactant | aluminum chloride | 60 mmol, 8.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromoacetyl bromide | 48 mmol, 4.2 ml | BrCC(=O)Br | C2H2Br2O
reactant | 5-Fluoro-3,4-dihydroquinolin-2(1H)-one | 24 mmol, 4.0 g | FC1=C2CCC(NC2=CC=C1)=O | C9H8FNO
solvent | 1,2-dichloroethane | 16 ml | ClCCCl | C2H4Cl2
product | 6-(Bromoacetyl)-5-fluoro-3,4-dihydroquinolin-2(1H)-one | 2.0 g | BrCC(=O)C=1C(=C2CCC(NC2=CC1)=O)F | C11H9BrFNO2
